US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 4-cyanobenzoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-cyanobenzamide as a white powder, m.p. 222.8-225.3 ° C. 1H NMR (300 MHz, DMSO-d6) δ8.73 (t, J=5.7 Hz, 1H), 8.22 (s, 1H), 8.03 (d, J=8.1 Hz, 1H), 7.93 (s, 4H), 7.61 (dd, J=8.4, 1.2 Hz, 1H), 7.43 (dt, J=7.6, 1.5 Hz, 1H), 7.21 (dt, J=7.6, 1.2 Hz, 1H), 6.61 (s, 2H), 4.64 (t, J=7.2 Hz, 2H), 3.33 (m, 2H), 1.96 (quintet, J=7.2 Hz, 2H), 1.58 (quintet, J=7.2 Hz, 2H); IR (KBr) 3441, 3337, 3136, 2945, 2228, 1641, 1545, 1531, 1481, 1396, 1309, 1257, 857, 755 cm−1; MS (El) m/e 384.1699 (384.1699 calcd for C22H20N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-cyanobenzamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=C(C=C2)C#N)=O | C22H20N6O
